US05112998
To a solution of 0.105 g (0.237 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α;6α,7α-diepoxypregn-4-en-3one and 6 ml of ethanol was added 9 mg (0.237 mmole) of sodium borohydride at a temperature of 0° C. and the mixture was stirred at 0° C. for 30 minutes. To the reaction mixture were added water and 1N-hydrochloric acid in the order mentioned and the mixture was extracted with methylene chloride. The aqueous layer was further extracted with methylene chloride and the extract was pooled with the previous methylene chloride extract. The mixture was washed successively with cold saturated sodium hydrogen carbonate solution and aqueous sodium chloride solution and the organic layer was dried over magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1:10, v/v) to recover 0.084 g of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α;6α,7α-diepoxypregn-4-en-3β-ol (yield: 80%).

reactant | 6α,7α-diepoxypregn-4-en-3one | O1[C@@]23[C@H]([C@H]4[C@@H]5CC[C@H](CC)[C@]5(CC[C@@H]4[C@]4(CCC(C1=C24)=O)C)C)O3 | C21H28O3
reactant | ethanol | 6 ml | C(C)O | C2H6O
reactant | sodium borohydride | 0.237 mmole, 9 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 6α,7α-diepoxypregn-4-en-3β-ol | yield: 80% | O1[C@@]23[C@H]([C@H]4[C@@H]5CC[C@H](CC)[C@]5(CC[C@@H]4[C@]4(CC[C@@H](C1=C24)O)C)C)O3 | C21H30O3
